US03985885
B. 5-Nitro-6-methoxy-2-(2-pyridinyl)benzothiazole
6-Methoxy -2-(pyridinyl)benzothiazole, 30 g, (0.124 mole) is dissolved in 115 cc of concentrated H2SO4 and cooled to 0°. Nitric acid, 7.9 cc (0.124 mole) is added and the solution stirred for 2 hours at room temperature. The reaction mixture is poured on ice and the pH adjusted to 10 with 50% NaOH solution. The precipitate is filtered and dried to yield 11 g of product.

reactant | 6-Methoxy -2-(pyridinyl)benzothiazole | COC1=CC2=C(N=C(S2)C2=NC=CC=C2)C=C1 | C13H10N2OS
reactant | Nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | NaOH | [OH-].[Na+]
solvent | H2SO4 | 115 cc | OS(=O)(=O)O | H2O4S
product | 5-Nitro-6-methoxy-2-(2-pyridinyl)benzothiazole | 11 g | [N+](=O)([O-])C=1C(=CC2=C(N=C(S2)C2=NC=CC=C2)C1)OC | C13H9N3O3S
